US05716948
A solution of thionyl chloride (530 μl, 7.27mmol) in THF (3 ml) was added to 4-methoxybenzyl (RS)-2-hydroxy-2-[(3S, 4R)-4-[3-oxo-3-[(S)-tetrahydrofuran-2-yl]propyl]-3-phthalimidoazetidin-2-on-1-yl]acetate (2.59 g, 4.84 mmol) and 2,6-lutidine (850 μl, 7.30 mmol) in THF (50 ml) at -20° C. After stirring for 1 h, the reaction mixture was filtered through a pad of celite, and the filtrate evaporated in vacuo. Toluene was added and re-evaporated to yield 4-methoxybenzyl (RS)-2-chloro-2-[(3S,4R)-4-[3-oxo-3-[(S)-tetrahydrofuran-2-yl]propyl]-3-phthalimidoazetidin-2-on-1-yl]acetate.

reactant | thionyl chloride | 7.27mmol, 530 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 4-methoxybenzyl (RS)-2-hydroxy-2-[(3S, 4R)-4-[3-oxo-3-[(S)-tetrahydrofuran-2-yl]propyl]-3-phthalimidoazetidin-2-on-1-yl]acetate | 4.84 mmol, 2.59 g | OC(C(=O)OCC1=CC=C(C=C1)OC)N1C([C@H]([C@H]1CCC([C@H]1OCCC1)=O)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C28H28N2O9
reactant | 2,6-lutidine | 7.30 mmol, 850 μl | N1=C(C=CC=C1C)C | C7H9N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-methoxybenzyl (RS)-2-chloro-2-[(3S,4R)-4-[3-oxo-3-[(S)-tetrahydrofuran-2-yl]propyl]-3-phthalimidoazetidin-2-on-1-yl]acetate | ClC(C(=O)OCC1=CC=C(C=C1)OC)N1C([C@H]([C@H]1CCC([C@H]1OCCC1)=O)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C28H27ClN2O8
